US04942221
1 millimoles (0.117 g) of benzyl cyanide is dissolved in 1 ml of anhydrous toluene, at 0° C., under an argon atmosphere. 1.5 millimoles of a toluenic solution 1.5 M of diisobutylaluminum hydride (1 ml) are added dropwise at this temperature. The reaction mixture is maintained at 0° C. for 1 hour, then a solution of hydrocyanic acid (in excess) in tetrahydrofuran is added to this mixture, which is then maintained at room temperature for 3 hours, then hydrolyzed with 4 ml of methanol and pasty sodium sulfate. After an acid-base extraction, there are obtained 0.107 g of 2-amino-3-phenyl-propionitrile, in the form of a pale-yellow oil, with a yield of 70%.

reactant | benzyl cyanide | 1 millimoles, 0.117 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | diisobutylaluminum hydride | 1 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrocyanic acid | C#N | CHN
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | 2-amino-3-phenyl-propionitrile | 0.107 g, yield of 70% | NC(C#N)CC1=CC=CC=C1 | C9H10N2
